US08536165B2
A. 2-(3-isopropoxyphenyl)-3-methyl-5-nitropyridine
Obtained (1.03 g, yield 82%) following the procedure described in Intermediate 27, starting with 2-bromo-3-methyl-5-nitropyridine (4.61 mmol, 1.0 g), 3-isopropoxyphenylboronic acid (4.61 mmol, 0.83 g).

reactant | 2-bromo-3-methyl-5-nitropyridine | 4.61 mmol, 1.0 g | BrC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5BrN2O2
reactant | 3-isopropoxyphenylboronic acid | 4.61 mmol, 0.83 g | C(C)(C)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 2-(3-isopropoxyphenyl)-3-methyl-5-nitropyridine | yield 82% | C(C)(C)OC=1C=C(C=CC1)C1=NC=C(C=C1C)[N+](=O)[O-] | C15H16N2O3
